US08614215B2
Intermediate 69: 1-Allyl-4-methoxy-2-nitrobenzene
To a solution of 1-iodo-4-methoxy-2-nitrobenzene (5 g, 18 mmol) in. THF (500 mL) are added cesium fluoride (11 g, 72 mmol) and Pd(PPh3)4(0.56 g, 48 mmol). The resulting mixture is stirred for 30 min at room temperature. A solution of allylboronic acid pinacol ester (5.6 mL, 33 mmol) in THF (15 mL) is added dropwise. The resulting mixture is refluxed for 24 h then diluted with hexane (100 mL) followed by water (100 mL). The product is extracted with hexane (2×100 mL). The combined organic layers are washed with water (150 mL) then brine (150 mL) and dried over Na2SO4. The solvent is removed under reduced pressure and the residue is purified by column chromatography using hexane as eluent affording 1.8 g (48%) of the title compound as a brown liquid. 1H NMR (DMSO-d6, 400 MHz) δ 7.93-7.91 (m, 1), 7.59-7.50 (m, 1H), 7.04-7.01 (m, 1H), 5.0-4.9 (m, 2H), 3.89-3.85 (m, 1H), 3.81 (s, 3H), 3.53-3.51 (m, 2H).

reactant | 1-iodo-4-methoxy-2-nitrobenzene | 18 mmol, 5 g | IC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C7H6INO3
reactant | cesium fluoride | 72 mmol, 11 g | [F-].[Cs+]
reactant | allylboronic acid pinacol ester | 33 mmol, 5.6 mL | C(C=C)B1OC(C)(C)C(C)(C)O1 | C9H17BO2
reactant | water | 100 mL | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | hexane | 100 mL | CCCCCC | C6H14
catalyst | Pd(PPh3)4 | 48 mmol, 0.56 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 1-Allyl-4-methoxy-2-nitrobenzene | 1.8 g, 48% | C(C=C)C1=C(C=C(C=C1)OC)[N+](=O)[O-] | C10H11NO3
